US07915250B2
To a solution of diisopropylamine (6.5 mL, 46.3 mmol) in THF (200 mL) at −78° C. was added butyllithium (17 mL of a 2.5 M solution in hexanes, 42.5 mmol) over 5 min. The solution of lithium diisopropylamide was stirred for 15 min at −78° C. A solution of (S)-4-benzyl-3-propionyl-2-oxazolidinone (9.0 g, 38.6 mmol) in THF (100 mL) was added to the lithium diisopropylamide by addition funnel over 26 min. The reaction temperature was kept below −70° C. during the course of the addition. After the addition, the mixture was stirred for a further 30 min at −78° C. Then phenylmethyl 3-oxoazetidine-1-carboxylate (9.5 g, 46.3 mmol) was added by addition funnel over 25 minutes as a solution in THF (100 mL). Again, the reaction mixture was kept below −70° C. during the reagent addition. After stirring for an additional 1 hour at −78° C., the reaction mixture was quenched with saturated ammonium chloride solution and was then allowed to warm to rt. Water was added to dissolve any precipitated ammonium chloride, and ethyl acetate was added. The layers were partitioned, and the aqueous phase was extracted twice with ethyl acetate. The combined organic extracts were washed with 5% aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography (50% ethyl acetate:50% hexanes) to provide phenylmethyl 3-hydroxy-3-{(1R)-1-methyl-2-oxo-2-[(4S)-2-oxo-4-(phenylmethyl)-1,3-oxazolidin-3-yl]ethyl}azetidine-1-carboxylate as a white crystalline solid (6.03 g, 13.8 mmol, 36% yield). 1H NMR (400 MHz, CDCl3) δ 7.37 (m, 8H), 7.20 (d, 2H), 5.12 (s, 2H), 4.66 (m, 1H), 4.27-4.20 (m, 2H), 4.10 (q, 1H), 4.03-3.93 (m, 3H), 3.28 (dd, 1H), 2.77 (dd, 1H), 1.29 (d, 3H).

reactant | diisopropylamine | 46.3 mmol, 6.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-4-benzyl-3-propionyl-2-oxazolidinone | 38.6 mmol, 9.0 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | phenylmethyl 3-oxoazetidine-1-carboxylate | 46.3 mmol, 9.5 g | O=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C11H11NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | phenylmethyl 3-hydroxy-3-{(1R)-1-methyl-2-oxo-2-[(4S)-2-oxo-4-(phenylmethyl)-1,3-oxazolidin-3-yl]ethyl}azetidine-1-carboxylate | 13.8 mmol, 6.03 g, 36% yield | OC1(CN(C1)C(=O)OCC1=CC=CC=C1)[C@H](C(N1C(OC[C@@H]1CC1=CC=CC=C1)=O)=O)C | C24H26N2O6
